US07101892B2
[1-(3-Bromopropyl)-cyclobutanesulfonyl]benzene
A solution of lithium napthtalenide in tetrahydrofuran (4.3M, 60 ml) was added to a stirred solution of 1,1-bis(phenylsulfonyl)cyclobutane (4.15 g, 12.35 mmol) at −78° C. over 20 min. The mixture was stirred for 15 min. and 1,3-dibromopropane (10 ml) was added in one portion. The cold bath was removed and the mixture was stirred at ambient temperature for 2 hours. The reaction mixture was treated with saturated aqueous ammonium chloride solution and extracted into ethyl acetate. The combined organic extracts were washed with brine, dried (Na2SO4) and concentrated. The residue was purified on silica gel to give the title product (2.55 g, 65%).

reactant | lithium | [Li] | Li
reactant | 1,1-bis(phenylsulfonyl)cyclobutane | 12.35 mmol, 4.15 g | C1(=CC=CC=C1)S(=O)(=O)C1(CCC1)S(=O)(=O)C1=CC=CC=C1 | C16H16O4S2
reactant | 1,3-dibromopropane | 10 ml | BrCCCBr | C3H6Br2
solvent | tetrahydrofuran | 4.3M, 60 ml | O1CCCC1 | C4H8O
product | [1-(3-Bromopropyl)-cyclobutanesulfonyl]benzene | 2.55 g, 65% | BrCCCC1(CCC1)S(=O)(=O)C1=CC=CC=C1 | C13H17BrO2S
